US09029374B2
3-amino-2-methylbenzonitrile (108 mg, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (100 mg, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(3-cyano-2-methylphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (52 mg, 55%) as a white solid. Mass Spectrum: M+H+ 461.

reactant | 3-amino-2-methylbenzonitrile | 0.82 mmol, 108 mg | NC=1C(=C(C#N)C=CC1)C | C8H8N2
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 100 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(3-cyano-2-methylphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 52 mg, 55% | C(#N)C=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C)C | C26H28N4O4
